US09421205B2
(e) Methyl 2-(2-(2-(2-((4-(4-((tert-butoxycarbonyl)amino)piperidin-1-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate (I78)
To a solution of crude methyl 2-(2-((2-((4-(4-((tert-butoxycarbonyl)amino)piperidin-1-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethynyl)phenyl)acetate (I77) in DMF (10 mL) and triethylamine (1 mL) was added 20% Pd(OH)2 (0.92 g) and the resulting suspension was stirred at room temperature overnight under an atmosphere of hydrogen. The reaction mixture was filtered through celite and the filter cake washed with EtOAc (3×75 mL). The combined filtrates were evaporated to dryness to give a brown solid, which was suspended in MeOH (25 mL) and then sonicated. The resulting suspension was filtered to give the title compound (I78) (211 mg, 29%) as a tan solid; 1H NMR (400 MHz, d6-DMSO) δ 9.97 (s, 1H), 8.60 (s, 1H), 7.55 (d, J=9.0 Hz, 2H), 7.29-7.15 (m, 4H), 6.96-6.78 (m, 3H), 3.76 (s, 2H), 3.64-3.49 (m, 5H), 3.38 (s, 2H), 3.11-3.00 (m, 2H), 3.00-2.91 (m, 2H), 2.68 (t, J=12.0 Hz, 2H), 1.80 (d, J=10.7 Hz, 2H), 1.48 (ddd, J=15.0, 12.2, 3.5 Hz, 2H), 1.39 (s, 9H). LCMS Method C: rt 5.87 min; m/z 614 [M+H]+.

reactant | methyl 2-(2-((2-((4-(4-((tert-butoxycarbonyl)amino)piperidin-1-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethynyl)phenyl)acetate | C(C)(C)(C)OC(=O)NC1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)C#CC1=C(C=CC=C1)CC(=O)OC)C(F)(F)F | C32H34F3N5O4
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
solvent | MeOH | 25 mL | CO | CH4O
catalyst | Pd(OH)2 | 0.92 g | [OH-].[OH-].[Pd+2]
product | Methyl 2-(2-(2-(2-((4-(4-((tert-butoxycarbonyl)amino)piperidin-1-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate | C(C)(C)(C)OC(=O)NC1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)CCC1=C(C=CC=C1)CC(=O)OC)C(F)(F)F | C32H38F3N5O4
